US09216980B2
Step 1: 9-Benzenesulfonyl-3-bromo-5-(2-methoxy-ethoxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A solution of 9-benzenesulfonyl-3-bromo-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (120 mg, 0.28 mmol), 2-methoxyethanol (128 μL, 1.60 mmol) and triphenylphosphine (315 mg, 1.60 mmol) in anhydrous DMF (1.25 mL) was treated dropwise with diethyl azodicarboxylate (252 μL, 1.60 mmol) and the mixture stirred at ambient temperature for 9 h. The mixture was diluted with ethyl acetate (15 mL) and washed with brine (3×10 mL), dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The crude material was purified by column chromatography (silica, 5 g column, Si-SPE, 30-50% DCM in pentane) to afford the title compound (50 mg, 37%). 1H NMR (CDCl3, 400 MHz): 9.58 (s, 1H), 8.97 (d, J=2.3 Hz, 1H), 8.76 (d, J=2.3 Hz, 1H), 8.24-8.22 (m, 1H), 8.22-8.00 (m, 1H), 7.66-7.60 (m, 1H), 7.54-7.48 (m, 2H), 4.74-4.69 (m, 2H), 3.87-3.83 (m, 2H), 3.48 (s, 3H). LCMS (Method B): RT=4.25 min, M+H+=487/489.

reactant | 9-benzenesulfonyl-3-bromo-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.28 mmol, 120 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3O)C#N)C=C(C=N2)Br | C17H9BrN4O3S
reactant | 2-methoxyethanol | 1.60 mmol, 128 μL | COCCO | C3H8O2
reactant | triphenylphosphine | 1.60 mmol, 315 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.60 mmol, 252 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | DMF | 1.25 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 9-Benzenesulfonyl-3-bromo-5-(2-methoxy-ethoxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 50 mg, 37% | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3OCCOC)C#N)C=C(C=N2)Br | C20H15BrN4O4S
